US08168635B2
2-(Bromomethyl)-5-(2′-methoxy-5′-fluorophenyl)tetrahydrofuran:
To a solution of 1-(2′-methoxy-5′-fluorophenyl)pent-4-en-1-ol (3.24 g, 18.0 mmol) in dry CH2Cl2 (50 mL) at 0° C. was added portionwise N-bromosuccinimide (NBS, 3.56 g, 20.0 mmol) portionwise and the reaction was warmed to room temperature for 12 h. Solvent was then removed in vacuo and the residue was purified by flash column chromatography (10% EtOAc in Hexane, Rf=0.28) to give the product (2.28 g, 44%) as an oil.

reactant | 1-(2′-methoxy-5′-fluorophenyl)pent-4-en-1-ol | 18.0 mmol, 3.24 g | COC1=C(C=C(C=C1)F)C(CCC=C)O | C12H15FO2
reactant | N-bromosuccinimide | 20.0 mmol, 3.56 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-(Bromomethyl)-5-(2′-methoxy-5′-fluorophenyl)tetrahydrofuran | 2.28 g, 44% | BrCC1OC(CC1)C1=C(C=CC(=C1)F)OC | C12H14BrFO2
